** NMOSFET: table generator with BSIM4 3D (Vdrain, Vgate, Vbulk)
* This file may be run by 'ngspice table-generator-b4-3d.sp'
* It will generate a 3D data table by simulating the MOS drain current
* as function of drain and gate voltages. The simulation uses
* the ngspice BSIM4.6.1 MOS model and Berkeley model parameters.
* This table is an input file for the XSPICE 3D table model.
* You have to select NMOS or PMOS by manually editing parameter
* 'mostype'.
* In addition you may change the step sizes vdstep vgstep vbstep in CSPARAM
* to obtain the required resolution for the data.
* These tables will contain pure dc data. For transient simulation you may
* need to add some capacitors to the device model for a 'real world' simulation.

* setting the MOS type (NMOS or PMOS)
.param mostype = 1 ; NMOS, 2 for PMOS

.if (mostype == 1)
*NMOS
.csparam vdstart=-0.1
.csparam vdstop=1.8
.csparam vdstep=0.05
.csparam vgstart=-0.1
.csparam vgstop=1.8
.csparam vgstep=0.05
.csparam vbstart=-1.8
.csparam vbstop=0.4
.csparam vbstep=0.2
.csparam mtype=1
.elseif (mostype == 2)
*PMOS
.csparam vdstart=-1.8
.csparam vdstop=0.1
.csparam vdstep=0.05
.csparam vgstart=-1.8
.csparam vgstop=0.1
.csparam vgstep=0.05
.csparam vbstart=-0.4
.csparam vbstop=1.8
.csparam vbstep=0.2
.csparam mtype=2
.endif

** Circuit Description **
.if (mostype == 1)
m1 2 1 3 4 nbsim4 L=0.13u W=10.0u rgeoMod=1
.elseif (mostype == 2)
m1 2 1 3 4 pbsim4 L=0.13u W=10.0u rgeoMod=1
.endif
vgs 1 0 1.8
vds 2 0 1.8
vss 3 0 0
vbs 4 0 0

.control
** output file **
echo
if mtype = 1
  set outfile = "$inputdir/bsim4n-3d-1.table"
  echo nmos table generation , table is written to
  echo $outfile
else
  if mtype = 2
    set outfile = "$inputdir/bsim4p-3d-1.table"
    echo pmos table generation , table is written to
    echo $outfile
  end
end
echo

save i(vss)
if mtype = 1
  echo * 3D table for nmos bsim 4 > $outfile
else
  echo * 3D table for nmos bsim 4 > $outfile
end

let xcount = floor((vdstop-vdstart)/vdstep) + 1
let ycount = floor((vgstop-vgstart)/vgstep) + 1
let zcount = floor((vbstop-vbstart)/vbstep) + 1
echo *x >> $outfile
echo $&xcount >> $outfile
echo *y >> $outfile
echo $&ycount >> $outfile
echo *z >> $outfile
echo $&zcount >> $outfile

let xvec = vector(xcount)
let yvec = vector(ycount)
let zvec = vector(zcount)

let loopx = vdstart
let lcx=0
while lcx < xcount
  let xvec[lcx] = loopx
  let loopx = loopx + vdstep
  let lcx = lcx + 1
end
echo *x row >> $outfile
echo $&xvec >> $outfile

let lcy=0
let loopy = vgstart
while lcy < ycount
  let yvec[lcy] = loopy
  let loopy = loopy + vgstep
  let lcy = lcy + 1
end
echo *y column >> $outfile
echo $&yvec >> $outfile

let lcz=0
let loopz = vbstart
while lcz < zcount
  let zvec[lcz] = loopz
  let loopz = loopz + vbstep
  let lcz = lcz + 1
end
echo *z tables >> $outfile
echo $&zvec >> $outfile

let lcz=0
let loopz = vbstart
while lcz < zcount
  echo *table $&loopz >> $outfile
  alter vbs loopz
  let lcy=0
  let loopy = vgstart
  while lcy < ycount
    alter vgs loopy
    dc vds $&vdstart $&vdstop $&vdstep
    let xvec = i(vss)
    echo $&xvec >> $outfile
    destroy dc1
    let loopy = loopy + vgstep
    let lcy = lcy + 1
  end
  let loopz = loopz + vbstep
  let lcz = lcz + 1
end
.endc

.include ./modelcards/modelcard.nmos
.include ./modelcards/modelcard.pmos

.end
